US06015826
Into a 100 mL three necked round bottom flask equipped with a magnetic stirrer, thermometer, and condenser, under an atmosphere of nitrogen, was added 2-methyl-2-[(4-methylphenyl)sulfonyl] hydrazine (9.5 g, 47.4 mmol), pyridine (3.75 g, 3.83 mL, 47.4 mmol), 4-dimethylaminopyridine (0.30 g, 2.4 mmol) and acetonitrile (50 mL). The resulting mixture was cooled to 10° C. and 2-fluoro-6-chlorobenzoyl chloride (8.99 g, 45.2 mmol) dropwise at a rate such that the temperature did not rise above 10° C. The cooling bath was removed and the mixture was allowed to stir at RT overnight. The solvent was removed from the reaction mixture in vacuo to give an off white solid and the solid was diluted with methylene chloride and extracted with 1N HCl (20 mL), saturated sodium chloride solution (20 mL), dried (Na2SO4), and the solvent removed in vacuo to give an off-white solid. This material was recrystallized from ethyl acetate to give 5.6 g (34.7% yield) of 1-(2-fluoro-6-chlorobenzoyl)-2-methyl-2-[(4-methylphenyl)sulfonyl] hydrazine as a crystalline solid: mp 135-136° C.; 1H NMR (CDCl3) δ 7.6-7.8 (m, 3H), 7.0-7.4 (m, 5H), 3.4 and 3.0 (singlets combined for 3H), 2.4 and 2.45 (singlets combined for 3H); 13C (CDCl3) 160.2, 144.7, 133.6, 132.7, 132.6, 132.1, 131.9, 130.2, 129.6, 129.0, 128.7, 125.7, 114.6, 114.3, 37.7, 21.7. Anal. Calcd. For C15H14ClFN2O3S: C, 50.49; H, 3.95; N, 7.85. Found: C, 50.55; H, 3.89: N. 7.81.

reactant | 2-methyl-2-[(4-methylphenyl)sulfonyl] hydrazine | 47.4 mmol, 9.5 g | CN(N)S(=O)(=O)C1=CC=C(C=C1)C | C8H12N2O2S
reactant | pyridine | 47.4 mmol, 3.83 mL, 3.75 g | N1=CC=CC=C1 | C5H5N
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
reactant | 2-fluoro-6-chlorobenzoyl chloride | 45.2 mmol, 8.99 g | FC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl2FO
catalyst | 4-dimethylaminopyridine | 2.4 mmol, 0.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2-fluoro-6-chlorobenzoyl)-2-methyl-2-[(4-methylphenyl)sulfonyl] hydrazine | 5.6 g, 34.7% yield | FC1=C(C(=O)NN(S(=O)(=O)C2=CC=C(C=C2)C)C)C(=CC=C1)Cl | C15H14ClFN2O3S
